US08981085B2
5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (0.250 g, 1.09 mmol), 3-methylbenzoic acid (311 mg, 2.28 mmol), BOP-Cl (581 mg, 2.28 mmol), and triethylamine (0.757 mL, 5.43 mmol) in DCM (5 mL) were stirred at room temperature for 30 minutes. 3M LiOH (3 mL) was then added. The reaction was stirred for an additional 10 minutes and then poured into water. The mixture was then filtered, washed with DCM, washed with 10:1 DCM:MeOH and dried to give N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methylbenzamide (210 mg, 55.5% yield) as a solid.

reactant | 5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 1.09 mmol, 0.250 g | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
reactant | 3-methylbenzoic acid | 2.28 mmol, 311 mg | CC=1C=C(C(=O)O)C=CC1 | C8H8O2
reactant | BOP-Cl | 2.28 mmol, 581 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 5.43 mmol, 0.757 mL | C(C)N(CC)CC | C6H15N
reactant | LiOH | 3M, 3 mL | [Li+].[OH-]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methylbenzamide | 210 mg, 55.5% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC(=CC=C2)C)=O)F | C15H11BrFN3O
